US05972929
(1) 2-Heptadecyl-7-nitro-4H-3,1-benzoxazine-4-one
Triethylamine (4.85 ml) was added to a suspension of 4-nitroanthranilic acid (3.00 g) in methylene chloride (30 ml) and then the mixture was cooled with ice. The reaction mixture, with stearoyl chloride (4.99 g) dropwise added thereto, was stirred for 3.25 hours at room temperature and then was cooled with ice. Then, triethylamine (2.55 ml) and ethyl chlorocarbonate (1.74 ml) were added to the reaction mixture successively. The reaction mixture was stirred for 1 hour at 0° C. and for 3 hours at room temperature successively, and then concentrated. The residue, with chloroform added thereto, was washed with water and saturated brine successively. The organic layer was dried over sodium sulfate anhydride, and then concentrated. The residue was purified by silica gel column chromatography (silica gel 200 g, chloroform-hexane), thereby yielding 3.62 g of the aimed compound as colorless solid.

reactant | Triethylamine | 4.85 ml | C(C)N(CC)CC | C6H15N
reactant | 4-nitroanthranilic acid | 3.00 g | [N+](=O)([O-])C=1C=C(C(C(=O)O)=CC1)N | C7H6N2O4
reactant | stearoyl chloride | 4.99 g | C(CCCCCCCCCCCCCCCCC)(=O)Cl | C18H35ClO
reactant | triethylamine | 2.55 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chlorocarbonate | 1.74 ml | C(OCC)(=O)Cl | C3H5ClO2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 2-Heptadecyl-7-nitro-4H-3,1-benzoxazine-4-one | 3.62 g | C(CCCCCCCCCCCCCCCC)C1=NC2=C(C(O1)=O)C=CC(=C2)[N+](=O)[O-] | C25H38N2O4
